US08138213B2
Step 1: Production of 4-bromo-chloro-3-methylbenzaldoxime
In a solution of 82.0 g of 4-bromo-3-methylbenzaldoxime in 450 ml of tetrahydrofuran, 120.0 g of concentrated hydrochloric acid was added a dropwise with stirring under ice cooling over 45 minutes. Then, 220 ml of 8% sodium hypochlorite aqueous solution was carefully added dropwise over 75 minutes so that the temperature of the reaction mixture would not exceed 5° C., after the completion of the addition, continued to stir at 10° C. or less further for 90 minutes. After the completion of the reaction, nitrogen gas was blown through the reaction mixture for 45 minutes and precipitated insoluble material was filtered off, and tetrahydrofuran was distilled off under reduced pressure. The remaining aqueous solution was extracted with 240.0 g of ethyl acetate. The organic phase was washed with water (240 ml×2) and then insoluble material was filtered off, the solvent was distilled off under reduced pressure to obtain 93.5 g of the aimed product as pale yellow crystal.

reactant | 4-bromo-3-methylbenzaldoxime | 82.0 g | BrC1=C(C=C(C=NO)C=C1)C | C8H8BrNO
reactant | hydrochloric acid | 120.0 g | Cl | ClH
reactant | sodium hypochlorite | 220 ml | Cl[O-].[Na+]
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | 4-bromo-chloro-3-methylbenzaldoxime | 93.5 g | BrC1=C(C(=C(C=NO)C=C1)Cl)C | C8H7BrClNO
